### ISSUE TITLE
scalar_tac does not see through the *.rMax / *.rMin constants (no scalar_tac_simps equations)

### ISSUE THREAD

**Issue by MavenRain** [AeneasVerif/aeneas#1233]
## Summary

The bounded-max family `U8.max .. Isize.max` is `irreducible_def` and gets tagged
equations that `scalar_tac` picks up, e.g. in `Aeneas/Std/Scalar/Core.lean`:

```lean
@[scalar_tac_simps, grind =, agrind =] theorem U32.max_eq : U32.max = 4294967295 := ...
```

The parallel `rMax` / `rMin` family is a set of plain defs with no `scalar_tac_simps`
equations anywhere:

```lean
def U32.rMax  : Nat := 4294967295
```

so `U32.rMax` reaches `scalar_tac`'s omega backend as an opaque atom and goals that
mention it fail, even though the corresponding `U32.max` goal closes.

## Minimal repro

```lean
import Aeneas
open Aeneas.Std

example : (42 : Nat) ≤ U32.max  := by scalar_tac                        -- closes
example : (42 : Nat) ≤ U32.rMax := by scalar_tac                        -- fails
example : (42 : Nat) ≤ U32.rMax := by simp only [U32.rMax]; scalar_tac  -- workaround
```

## Why users hit this

The `core.num.*.MAX` / `MIN` models are defined through `rMax` / `rMin`, reducibly:

```lean
@[reducible] def core.num.U32.MAX : U32 := UScalar.ofNat U32.rMax
```

so any proof about extracted Rust code that unfolds `u32::MAX` (for example via
`simp [core.num.U32.MAX]`) ends up with `U32.rMax` in the goal, and `scalar_tac` gets
stuck until the user manually adds `simp only [U32.rMax]`.

Concrete instance in the wild: the signed for-loop iterator spec in cryspen/hax#2080
(`Hax/Tactic/ForLoopWithInvariantSpec.lean`), where the `i32` `forward_checked` model
guards against `u32::MAX` and the proof needs `simp_all only [U32.rMax, ...]` before
`scalar_tac` can close the arithmetic goals.  Alexander Bentkamp diagnosed it there and
suggested reporting it upstream.

## Suggested fix

Mirror the `.max` treatment, e.g. add

```lean
@[scalar_tac_simps, grind =, agrind =] theorem U32.rMax_eq : U32.rMax = 4294967295 := rfl
```

for the ten fixed-width types (`U8 U16 U32 U64 U128 / I8 I16 I32 I64 I128`, and the
`rMin` side for the signed ones).  `Usize.rMax` / `Isize.rMax` / `Isize.rMin` are
platform-dependent (`2^System.Platform.numBits - 1` etc.), so those would instead follow
whatever route `Usize.max` takes today (`@[scalar_tac Usize.max] Usize.cMax_bound`).
Alternatively, `scalar_tac_simps` equations `U32.rMax = U32.max` etc. would piggyback on
the existing `max_eq` lemmas.

Checked on Lean v4.31.0: with
`@[scalar_tac_simps, grind =, agrind =] theorem U32.rMax_eq : U32.rMax = 4294967295 := rfl`
in scope, the failing example above closes by `scalar_tac`.

I'd be happy to send a PR for this if you would take one.
